* Auto TB for Bandgap_2
.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice
.option gmin=1e-12
**.subckt Bandgap_2 VDD GND Vref
*.ipin VDD
*.ipin GND
*.opin Vref
XM13 Vref net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM14 net9 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=5 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XQ10 GND GND net4 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ11 GND GND net2 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ12 GND GND net2 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ13 GND GND net2 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ14 GND GND net2 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ15 GND GND net2 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ16 GND GND net2 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ17 GND GND net2 sky130_fd_pr__pnp_05v5_W0p68L0p68
XQ18 GND GND net2 sky130_fd_pr__pnp_05v5_W0p68L0p68
XR4 net2 net3 GND sky130_fd_pr__res_xhigh_po_1p41 L=1.8 mult=1 m=1
XM15 net6 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=4 m=4 
XM16 net1 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=44 m=44 
XM17 net7 net3 net6 VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6 
XM18 net5 net4 net6 VDD sky130_fd_pr__pfet_g5v0d10v5 L=0.5 W=15 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=6 m=6 
XM19 net1 net7 GND GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=10 m=10 
XM20 net7 net5 GND GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4 
XM21 net5 net5 GND GND sky130_fd_pr__nfet_g5v0d10v5 L=0.5 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4 
XM22 net8 net1 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XM23 net8 net1 GND GND sky130_fd_pr__nfet_g5v0d10v5 L=20 W=0.42 nf=1 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1 
XM24 net4 net8 VDD VDD sky130_fd_pr__pfet_g5v0d10v5 L=1 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=2 m=2 
XR1 net3 Vref GND sky130_fd_pr__res_xhigh_po_1p41 L=7.2 mult=1 m=1
XR2 net4 net9 GND sky130_fd_pr__res_xhigh_po_1p41 L=7.2 mult=1 m=1
**.ends
** flattened .save nodes
.end


Vdd VDD 0 DC 1.8
Vss GND 0 DC 0
X1 VDD GND Vref Bandgap_2
.op
.control
op
.endc
.end
